US07781441B2
a) 1-(2-Amino-3-bromo-5-chloro-phenyl)-ethanol
At −78° C. under nitrogen 1.8 M phenyl magnesium chloride solution in THF (3.06 ml, 5.5 mmol) were added dropwise to 2,6-dibromo-4-chloroaniline (1.426 g, 5.0 mmol) in THF (25 ml). The clear solution was warmed to −20° C. and stirred at this temperature for 5 minutes. The clear yellow solution was cooled to −78° C. and 1.6 M n-butyllithium solution in hexane (6.25 ml, 10 mmol) was added dropwise. The reaction was warmed to −10° C. and again cooled to −78° C. at which temperature acetaldehyde (440 mg, 10 mmol) dissolved in THF (5 ml) was added. After stirring for 10 minutes at −78° C. 1N aqueous hydrogen chloride solution was added and the reaction was allowed to warm to room temperature. The reaction was extracted twice with diethyl ether, dried over sodium sulfate, filtered and the solvent was evaporated to yield the product as a mixture of the corresponding amine, imine and aminal. The crude product was used directly in the next step.

reactant | 2,6-dibromo-4-chloroaniline | 5.0 mmol, 1.426 g | BrC1=C(N)C(=CC(=C1)Cl)Br | C6H4Br2ClN
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 10 mmol, 6.25 ml | CCCCCC | C6H14
reactant | acetaldehyde | 10 mmol, 440 mg | C(C)=O | C2H4O
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5.5 mmol, 3.06 ml | C1CCOC1 | C4H8O
product | 1-(2-Amino-3-bromo-5-chloro-phenyl)-ethanol | NC1=C(C=C(C=C1Br)Cl)C(C)O | C8H9BrClNO
